US08791161B2
N-[5-chloro-2-(methylthio)phenyl]thiophene-2-sulfonamide
Following General Procedure B, the title compound was prepared from 5-chloro-2-(methylsulfinyl)aniline and thiophene-2-sulfonyl chloride.

reactant | 5-chloro-2-(methylsulfinyl)aniline | ClC=1C=CC(=C(N)C1)S(=O)C | C7H8ClNOS
reactant | thiophene-2-sulfonyl chloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-[5-chloro-2-(methylthio)phenyl]thiophene-2-sulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1SC=CC1)SC | C11H10ClNO2S3
